US06407111B1
c) 6-Morpholin-4-yl-4-phenoxy-nicotinic acid
A mixture of 66 mg (0.20 mmol) 6-morpholin-4-yl-4-phenoxy-nicotinic acid ethyl ester, 2 ml methanol and 2 ml 1N aqueous sodium hydroxide solution was stirred at room temperature for 1 h. The reaction mixture was diluted with water and washed with tert-butyl-methyl-ether. The aqueous layer was acidified to pH 4-5 with concentrated hydrochloric acid solution and extracted with 3 portions of dichloromethane. The combined organic layers were washed with saturated aqueous sodium chloride solution and dried with sodium sulfate. Concentration afforded 46 mg (77%) of the title compound as a white solid.

reactant | 6-morpholin-4-yl-4-phenoxy-nicotinic acid ethyl ester | 0.20 mmol, 66 mg | C(C)OC(C1=CN=C(C=C1OC1=CC=CC=C1)N1CCOCC1)=O | C18H20N2O4
reactant | methanol | 2 ml | CO | CH4O
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 6-Morpholin-4-yl-4-phenoxy-nicotinic acid | 46 mg, 77% | N1(CCOCC1)C1=NC=C(C(=O)O)C(=C1)OC1=CC=CC=C1 | C16H16N2O4
